US07723356B2
Rii) Cyclohexyl-hydroxy-thiophen-2-yl-acetic acid
A solution of cyclohexyl-hydroxy-thiophen-2-yl-acetic acid ethyl ester (361.8 g, 1.35 mol) in MeOH (1.5 litres) and THF (1.5 litres) is treated portionwise with 2M NaOH (1.1 litres) over 30 minutes. The reaction mixture is stirred at room temperature overnight and then concentrated in vacuo to remove the organic solvents. The remaining aqueous portion is partitioned between EtOAc (2 litres) and 20% citric acid in water (1 litre). The organic layer is separated, washed with brine and concentrated in vacuo to afford the titled compound which is used crude in the next step.

reactant | cyclohexyl-hydroxy-thiophen-2-yl-acetic acid ethyl ester | 1.35 mol, 361.8 g | C(C)OC(C(C=1SC=CC1)(O)C1CCCCC1)=O | C14H20O3S
reactant | NaOH | 2M, 1.1 litres | [OH-].[Na+]
solvent | MeOH | 1.5 litres | CO | CH4O
solvent | THF | 1.5 litres | C1CCOC1 | C4H8O
product | Cyclohexyl-hydroxy-thiophen-2-yl-acetic acid | C1(CCCCC1)C(C(=O)O)(C=1SC=CC1)O | C12H16O3S
